US04061761
4-[4-Chloro-3-(2,4-dimethoxybenzylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride
8.8 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted as prescribed in Example 76 with 5 g of triethyl amine and 3.5 g of 2,4-dimethoxybenzyl amine and worked up. After treating with water, the amorphous 4-[4-chloro-3-(2,4-di-methoxybenzylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol was extracted with 70 ml of ethyl acetate, dried over sodium sulfate and the solvent was acidified with ethanolic hydrochloric acid (15%). The amorphous precipitate end product was crystallized under isopropanol. Melting point: 163° C (decomposition).

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 8.8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | triethyl amine | 5 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethoxybenzyl amine | 3.5 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | water | O | H2O
product | 4-[4-Chloro-3-(2,4-dimethoxybenzylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC1=C(C=C(C=C1)OC)OC)(=O)=O | InChI=1S/C20H24ClN3O5S2.ClH/c1-22-19-24(2)20(25,12-30-19)14-6-8-16(21)18(9-14)31(26,27)23-11-13-5-7-15(28-3)10-17(13)29-4;/h5-10,23,25H,11-12H2,1-4H3;1H
